US05712267
7(i) (2S,4S)-4-(4-Methyoxybenzylthio)-2-(4-t-butoxycarbonyl-2-methylpiperazin-1-ylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
3.41 ml of triethylamine and 3.03 ml of pivaloyl chloride were added dropwise to a solution of 9.99 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid in 100 ml of dry acetonitrile, whilst ice-cooling, and the resulting mixture was stirred at the same temperature for 20 minutes. A solution of 5.38 g of 1-t-butoxycarbonyl-3-methylpiperazine in 50 ml of dry tetrahydrofuran was then added dropwise to the mixture, and the mixture was stirred at the same temperature for 30 minutes and then at room temperature for 2 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was diluted with ethyl acetate. The diluted solution was washed, in turn, with a 1N aqueous solution of oxalic acid, with water and with an aqueous solution of sodium chloride. The ethyl acetate solution was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of ethyl acetate and cyclohexane ranging from 1:1 to 3:2 by volume as the eluent, to give 8.56 g of the title compound, as an amorphous solid.

reactant | triethylamine | 3.41 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 3.03 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 9.99 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 1-t-butoxycarbonyl-3-methylpiperazine | 5.38 g | C(C)(C)(C)OC(=O)N1CC(NCC1)C | C10H20N2O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2S,4S)-4-(4-Methyoxybenzylthio)-2-(4-t-butoxycarbonyl-2-methylpiperazin-1-ylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 8.56 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)C)C=C1 | C31H40N4O8S
